US04028415
1,1-Diphenyl-3-bromopropan-2-ol (500 mg.) prepared as described in Example 20 was treated with excess dimethylamine in ethanol and the solution allowed to stand overnight. Solvent was removed by evaporation and the residue dissolved in dilute hydrochloric acid and ether. Basification of the acid extract and isolation through ether in the usual manner gave 3-dimethylamino-1,1-diphenyl-propan-2-ol (330 mg., 75%), m.p. 72° - 73°.

reactant | 1,1-Diphenyl-3-bromopropan-2-ol | 500 mg | C1(=CC=CC=C1)C(C(CBr)O)C1=CC=CC=C1 | C15H15BrO
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 3-dimethylamino-1,1-diphenyl-propan-2-ol | 330 mg, 75% | CN(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C17H21NO
